US08530205B2
Also, when a mass-production was carried out by varying the kinds of an organic solvent, ethanol showed a calcitriol production yield of 48.45 mg/L, and acetone and DMSO showed calcitriol production yields of 74.87 mg/L and 70.85 mg/L, respectively, and calcifediol production yields of 156.37 mg/L and 141.81 mg/L, respectively. Especially, methanol showed a calcitriol production yield of 90.12 mg/L, and a calcifediol production yield of 166.87 mg/L (see Example 9). Accordingly, it can be seen that the inventive composition including methanol, ethanol, acetone, and DMSO showed a high calcitriol or calcifediol productivity.

reactant | ethanol | C(C)O | C2H6O
reactant | calcitriol | C[C@H](CCCC(C)(C)O)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](C[C@@H](C3=C)O)O)C | C27H44O3
reactant | acetone | CC(=O)C | C3H6O
solvent | DMSO | CS(=O)C | C2H6OS
product | calcifediol | C[C@H](CCCC(C)(C)O)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](CCC3=C)O)C | C27H44O2
